US06949648B2
6,7-Difluoro-3-methyl-4-propoxy-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
Following the procedure described in Example 2-16, from 6,7-difluoro-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one and 1-iodopropane was prepared the title compound (27% yield).

reactant | 6,7-difluoro-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | FC=1C=C2C(C3=C(NC2=CC1F)N(N=C3C)C3=NC=CC=C3)=O | C16H10F2N4O
reactant | 1-iodopropane | ICCC | C3H7I
product | 6,7-Difluoro-3-methyl-4-propoxy-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 27% yield | FC=1C=C2C(=C3C(=NC2=CC1F)N(N=C3C)C3=NC=CC=C3)OCCC | C19H16F2N4O
